US06900215B2
A warm solution of 3′-amino-4′-fluorobiphenyl-2-carbonitrile (4.24 g, 20 mmol) in 1,4-dioxane (30 ml) was treated with 48% hydrobromic acid (100 ml) and the resulting suspension stirred and cooled to 3° C. (internal temp). A solution of sodium nitrite (1.59 g, 23 mmol) in water (4 ml) was then added dropwise over 20 min keeping the internal temperature <5° C. Stirring at <5° C. was continued for 2 h before adding a cooled (5° C.) solution of copper(I) bromide in 48% hydrobromic acid (30 ml). The resulting purple reaction mixture was stirred at 5° C. for 10 min then warmed to 50° C. for 20 min. The reaction was diluted with ice-cold water (500 ml) and extracted with ethyl acetate (2×200 ml). The organics were combined, washed with 5% aqueous sodium sulfite and saturated aqueous ammonium chloride, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification on silica, eluting with isohexane on a gradient of ethyl acetate (2-12%) afforded 3′-bromo-4′-fluorobiphenyl-2-carbonitrile as a white solid (2.5 g, 45%): δH (400 MHz, CDCl3) 7.22-7.27 (1H, m), 7.45-7.53 (4H, m), 7.66 (1H, td, J 8 and 2), 7.73 (1H, dd, J 8 and 2), 7.77 (1H, dd, J 8 and 2).

reactant | 3′-amino-4′-fluorobiphenyl-2-carbonitrile | 20 mmol, 4.24 g | NC=1C=C(C=CC1F)C=1C(=CC=CC1)C#N | C13H9FN2
reactant | sodium nitrite | 23 mmol, 1.59 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 30 ml | Br | BrH
reactant | hydrobromic acid | 100 ml | Br | BrH
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 4 ml | O | H2O
catalyst | copper(I) bromide | [Cu]Br
product | 3′-bromo-4′-fluorobiphenyl-2-carbonitrile | 2.5 g, 45% | BrC=1C=C(C=CC1F)C=1C(=CC=CC1)C#N | C13H7BrFN
